US06015885
In an aqueous solvent, 23.9 parts of 7-amino-4-hydroxynaphthalene-2-sulfonic acid was condensed with 18.4 parts of 2,4,6-trichloro-s-triazine according to a normal method and the resultant condensate was condensed with 28.1 parts of 4-(2-sulfate ethylsulfonyl)aniline according to a normal method to obtain a naphthol derivative.

reactant | 7-amino-4-hydroxynaphthalene-2-sulfonic acid | NC1=CC=C2C(=CC(=CC2=C1)S(=O)(=O)O)O | C10H9NO4S
reactant | 2,4,6-trichloro-s-triazine | ClC1=NC(=NC(=N1)Cl)Cl | C3Cl3N3
product | naphthol | C=1C=CC=2C(C1)=CC=CC2O | C10H8O
